### ISSUE TITLE
RFC: `let` binders for explicit state in `Std.Do` proof mode goals

### ISSUE THREAD

**Issue by rish987** [leanprover/lean4#9365]
### Proposal

In the following MWE, the call to `mvcgen` produces a proof mode subgoal with an explicit state value corresponding to the value set by `modify`:
```lean
abbrev SM := StateM (Array Nat)

abbrev gns : SVal ((Array Nat)::[]) (Array Nat) := fun s => SVal.pure s

noncomputable def setZeroHead : StateM (Array Nat) Unit := do
  modify fun _ => #[0, 1, 2, 3, 4, 5]

-- see #9363
macro "mvcgen_aux" : tactic => do
  `(tactic|
    (repeat mintro ∀_
     try mframe
     mpure_intro
     simp only [SPred.and_cons, SVal.curry_cons, SVal.curry_nil, SVal.uncurry_cons, SVal.uncurry_nil, SPred.and_nil] at *))

theorem setZeroHead_spec :
   ⦃⌜True⌝⦄
   setZeroHead
   ⦃⇓ _ => ⌜∃ ns', (#gns).toList = 0 :: ns'⌝⦄ := by
  unfold setZeroHead
  mvcgen
  -- Goal:
  -- s✝ : Array Nat
  -- ⊢ 
  -- h✝ : ⌜True⌝ s✝
  -- ⊢ₛ ⌜∃ ns', (#gns tuple).toList = 0 :: ns'⌝ (PUnit.unit, #[0, 1, 2, 3, 4, 5]).snd

  -- FIXME here, we would want mvcgen to have assigned some let variable
  -- `s := #[0, 1, 2, 3, 4, 5]` so that we can use `s.tail` below instead of
  -- having to rewrite part of the state that was set with `modify`
  mvcgen_aux
  exists [1, 2, 3, 4, 5]
```
This presents a difficulty because if we need to operate on this explicit state in our proof, we have to explicitly rewrite it (or part of it) somewhere in the proof. It would much easier if `mvcgen` had bound the state for us via a `let` binding.

(Lean 4.23.0, commit a4f38cc78250f4c7f813c8d20700d97a53f0d3d6)

### Community Feedback

Mentioned to Sebastian Graf in DMs.

**Comment by sgraf812** [comment]
Let me know what you think about #9451. Rather than trying to be smart about where to introduce let bindings, it is the obligation of the spec lemma:

```
Spec.modifyGet_StateT [Monad m] [WPMonad m ps] :
  ⦃fun s => let t := f s; Q.1 t.1 t.2⦄ (MonadStateOf.modifyGet f : StateT σ m α) ⦃Q⦄ 
```

**Comment by rish987** [comment]
Perfect, that looks like a great solution, thank you! I was wondering though if the `mintro t` step should be automatic -- especially if we end up making `mleave` default behavior, as discussed in #9363. In the test case you added, calling `mleave` after `mvcgen` results in us losing the binding. Do you think there would be any drawbacks to automatically doing `mintro t` whenever we encounter a proof mode target wrapped in a let binding?
